US06995176B2
Preparation of 3-(Phenylsulfonyl)-1H-indazole
A stirred solution of 2-[(phenylsulfonyl)methyl]aniline (247 mg, 1.00 mmol) in 4N HCl (50 ml) is treated with a solution of NaNO2 (100 mg, 1.5 mmol) in water at ice-bath temperatures, stirred for 30 min., neutralized with 10% NaOH and filtered. The filtercake is dissolved in CH2Cl2, dried over MgSO4 and concentrated in vacuo to afford the title product as a tan solid, 240 mg (93% yield), mp 118° C., identified by mass spectral and HNMR analyses.

reactant | 2-[(phenylsulfonyl)methyl]aniline | 1.00 mmol, 247 mg | C1(=CC=CC=C1)S(=O)(=O)CC1=C(N)C=CC=C1 | C13H13NO2S
reactant | NaNO2 | 1.5 mmol, 100 mg | N(=O)[O-].[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 4N, 50 ml | Cl | ClH
solvent | water | O | H2O
product | 3-(Phenylsulfonyl)-1H-indazole | 93% yield | C1(=CC=CC=C1)S(=O)(=O)C1=NNC2=CC=CC=C12 | C13H10N2O2S
